US06927228B2
(a) tert-Butyl (3-bromo benzyl)carbamate
15 g (67 mmol) of 3-bromobenzylaminehydrochloride, 9.4 ml of triethylamine (67 mmol) and 150 ml of dichloromethane are introduced into a round-bottomed flask under a stream of nitrogen. 15.5 ml (67 mmol) of di-tert-butyl dicarbonate are added portionwise at room temperature and the mixture is stirred for three hours. The reaction medium is poured into ice-cold water and extracted with dichloromethane, and the organic phase is separated out after settling of the phases has taken place, dried over magnesium sulfate and evaporated. 19.3 g (100%) of the expected product are collected.

reactant | 3-bromobenzylaminehydrochloride | 67 mmol, 15 g | Cl.BrC=1C=C(CN)C=CC1
reactant | triethylamine | 67 mmol, 9.4 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 67 mmol, 15.5 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | tert-Butyl (3-bromo benzyl)carbamate | BrC=1C=C(CNC(OC(C)(C)C)=O)C=CC1 | C12H16BrNO2
